US06506784B1
1-methyl-3-(trifluoromethyl)pyrazol-5-yl 2,4-dichlorobenzenesulfonate
2,4-Dichlorobenzenesulfonyl chloride (245 mg, 1.0 mmol) was added in portions to an ice-cold solution of 1-methyl-3-(trifluoromethyl)pyrazol-5-ol (166 mg, 1.0 mmol) in anhydrous pyridine (5 mL). The resulting solution was stirred at room temperature overnight, and poured onto ice-water. The mixture obtained is stirred for 1 h, and the precipitate formed filtered, yielding 244 mg (65% yield) of the desired product. NMR (δ, CDCl3): 8.0 (1H, d, J=8.5 Hz); 7.65 (1H, d, J=2.1 Hz); 7.4 (1H, dd, J=8.5; 2.1 Hz); 6.1 (1H, s); 3.9 (s, 3H).

reactant | 2,4-Dichlorobenzenesulfonyl chloride | 1.0 mmol, 245 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 1-methyl-3-(trifluoromethyl)pyrazol-5-ol | 1.0 mmol, 166 mg | CN1N=C(C=C1O)C(F)(F)F | C5H5F3N2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-methyl-3-(trifluoromethyl)pyrazol-5-yl 2,4-dichlorobenzenesulfonate | 244 mg, 65% yield | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)OC1=CC(=NN1C)C(F)(F)F | C11H7Cl2F3N2O3S
